US07183278B1
3-Hydroxy-6-methoxypicolinic acid
Methyl 3-hydroxy-6-methoxypicolinate (80 mg) was dissolved in 4 ml of methanol. A 1 N aqueous sodium hydroxide solution (2 ml) was added to the solution, and a reaction was allowed to proceed at room temperature for 3 hr. The reaction solution was adjusted to pH 3 by the addition of 1 N hydrochloric acid. The precipitate was collected by filtration to give 56 mg (yield 76%) of the title compound.

reactant | Methyl 3-hydroxy-6-methoxypicolinate | 80 mg | OC=1C(=NC(=CC1)OC)C(=O)OC | C8H9NO4
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | 3-Hydroxy-6-methoxypicolinic acid | 56 mg, yield 76% | OC=1C(=NC(=CC1)OC)C(=O)O | C7H7NO4
